US08283353B2
4′-{[4-(2,2-dimethyltetrahydro-2H-pyran-4-yl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-3′-fluorobiphenyl-2-carbonitrile
A mixture of ethyl 2-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-3-oxohexanoate (0.87 g) and N-(2,2-dimethyltetrahydro-2H-pyran-4-yl)-5-methyl-4H-1,2,4-triazol-3-amine (0.25 g) was stirred at 250° C. for 20 min under microwave irradiation. The obtained reaction mixture was purified by silica gel column chromatography to give the title compound as a colorless solid (0.34 g, 56%).

reactant | ethyl 2-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-3-oxohexanoate | 0.87 g | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC(C(=O)OCC)C(CCC)=O)F | C22H22FNO3
reactant | N-(2,2-dimethyltetrahydro-2H-pyran-4-yl)-5-methyl-4H-1,2,4-triazol-3-amine | 0.25 g | CC1(OCCC(C1)NC1=NN=C(N1)C)C | C10H18N4O
product | 4′-{[4-(2,2-dimethyltetrahydro-2H-pyran-4-yl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-3′-fluorobiphenyl-2-carbonitrile | 0.34 g, 56% | CC1(OCCC(C1)N1C=2N(C(=C(C1=O)CC1=C(C=C(C=C1)C=1C(=CC=CC1)C#N)F)CCC)N=C(N2)C)C | C30H32FN5O2
